US04670448
5-Bromo-1-methyl-3-nitro-1H-1,2,4-triazole
A stirred solution of 3-bromo-5-nitro-1H-1,2,4-triazole (13.1 g) in acetone (100 ml) was cooled to 0° and treated with 10% sodium hydroxide solution (30 ml), followed by dimethyl sulphate (9.5 g). After 18 h at room temperature, the mixture was evaporated in vacuo; the residue was diluted with water and extracted with ethyl acetate. The combined extracts were washed with 2N sodium hydroxide solution, water, and evaporated in vacuo. The resulting solid was recrystallized from a mixture of ethyl acetate and cyclohexane to yield the title compound (6.0 g), m.p. 90.5°-91.5°.

reactant | 3-bromo-5-nitro-1H-1,2,4-triazole | 13.1 g | BrC1=NNC(=N1)[N+](=O)[O-] | C2HBrN4O2
reactant | sodium hydroxide | 30 ml | [OH-].[Na+]
reactant | dimethyl sulphate | 9.5 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 5-Bromo-1-methyl-3-nitro-1H-1,2,4-triazole | 6.0 g | BrC1=NC(=NN1C)[N+](=O)[O-] | C3H3BrN4O2
